US06673809B2
4-(t-Butyldimethylsilanyloxy)cyclopent-2-enyloxy Acetate
To a stirred solution of 4-hydroxy-cyclopent-2-enyloxy acetate (4.1 g, 29 mmol) in CH2Cl2 (35 mL) and 2,6-lutidine (8.2 mL, 67 mmol) was added t-butyldimethylsilyl trifluoromethanesulfonate (10 mL, 44 mmol) at 0-5° C. The reaction mixture was stirred at r.t. for 1 hour. It was diluted with CH2Cl2, washed (brine), dried (Na2SO4), filtered and concentrated Column chromatography (silica gel, 5:1 hexanes:diethylether) gave desired product (5.1 g, 69%). 1H NMR (CDCl3, 400 MHz) δ; 5.88 (m, 1H); 5.84 (m, 1H); 5.42 (t, 1H); 4.64 (t, 1H); 2.80 (m, 1H); 2.02 (s, 3H); 1.59 (m, 1H); 0.83 (s, 9H); 0.04 (s, 6H).

reactant | 4-hydroxy-cyclopent-2-enyloxy acetate | 29 mmol, 4.1 g | C(C)(=O)OOC1C=CC(C1)O | C7H10O4
reactant | 2,6-lutidine | 67 mmol, 8.2 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyldimethylsilyl trifluoromethanesulfonate | 44 mmol, 10 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | 4-(t-Butyldimethylsilanyloxy)cyclopent-2-enyloxy Acetate | 5.1 g, 69% | C(C)(=O)OOC1C=CC(C1)O[Si](C)(C)C(C)(C)C | C13H24O4Si
